US05538939
5-(3-Methylbutanoyl)amino-3-isopropylisoxazole-4-carboxamide
1.7 g of 5-amino-3-isopropylisoxazole-4-carboxamide in a mixture of 40 ml of toluene and 40 ml of pyridine are initially taken together with a pinch of dimethylaminopyridine, and a solution of 2.5 g of isovaleroyl chloride in 20 ml of toluene is added. Stirring is carried out for 16 hours at room temperature, after which the solution is evaporated to dryness and the residue is stirred with ethyl acetate. The organic phase is then extracted with aqueous hydrochloric acid and sodium bicarbonate solution, dried and evaporated down. Purification is effected by chromatography over silica gel (cyclohexane/ethyl acetate).

reactant | 5-amino-3-isopropylisoxazole-4-carboxamide | 1.7 g | NC1=C(C(=NO1)C(C)C)C(=O)N | C7H11N3O2
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | isovaleroyl chloride | 2.5 g | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Methylbutanoyl)amino-3-isopropylisoxazole-4-carboxamide | CC(CC(=O)NC1=C(C(=NO1)C(C)C)C(=O)N)C | C12H19N3O3
